US07425634B2
(5) (4-(2,2-dimethyl-1,3-dioxan-5-yl)methoxy-3,5-dimethylpyridin-2-yl)methanol monohydrate
To a mixture of 4-(2,2-dimethyl-1,3-dioxan-5-yl)methoxy-2,3,5-trimethylpyridine N-oxide (1.20 kg) and sodium acetate (0.18 kg) heated at 50° C. to 60° C., acetic anhydride (1.10 kg) was added dropwise over 1.5 hours. After 0.5 hours, the mixture was heated at 80° C. for 4.5 hours and cooled to an inner temperature below 30° C. or less, allowed to stand, and concentrated under reduced pressure. The obtained residue was dissolved in methanol (1.0 L) and the solution was added to a mixture of a 48% aqueous sodium hydroxide solution (0.71 kg) and cold water (2.85 L) for one hour. After stirred at room temperature for 5 hours and 45 minutes, the mixture was concentrated under reduced pressure. To the residue thus concentrated, water (3.0 L) was added and the mixture was extracted with toluene (2.3 L×4). The toluene layers were combined and washed with water (1.2 L). The obtained organic layer was filtrated through celite and concentrated. To the residue obtained, diisopropyl ether (1.15 L) was added at a room temperature and further warm water (45° C., 74 mL) was added. After crystal precipitation was confirmed, the mixture was stirred at 25° C. for one hour. After heptane (3.6 L) was poured, the mixture was stirred overnight. The mixture was further stirred under ice-cool for 5 hours and then filtrated to obtain yellow crystal. To the yellow crystal obtained, diisopropylether (3.5 L) was added and the mixture was dissolved at 50° C. After insoluble substance was removed by filtration, the mixture was gradually cooled and allowed to stand at 5° C. overnight. The obtained crystal was filtrated and washed with heptane (0.5 L) and dried by air to obtain a desired product (0.69 kg).

reactant | 4-(2,2-dimethyl-1,3-dioxan-5-yl)methoxy-2,3,5-trimethylpyridine N-oxide | 1.20 kg | CC1(OCC(CO1)COC1=C(C(=[N+](C=C1C)[O-])C)C)C | C15H23NO4
reactant | sodium acetate | 0.18 kg | C(C)(=O)[O-].[Na+]
reactant | acetic anhydride | 1.10 kg | C(C)(=O)OC(C)=O | C4H6O3
reactant | diisopropyl ether | 1.15 L | C(C)(C)OC(C)C | C6H14O
reactant | diisopropylether | 3.5 L | C(C)(C)OC(C)C | C6H14O
solvent | water | 74 mL | O | H2O
product | (4-(2,2-dimethyl-1,3-dioxan-5-yl)methoxy-3,5-dimethylpyridin-2-yl)methanol monohydrate | 0.69 kg | O.CC1(OCC(CO1)COC1=C(C(=NC=C1C)CO)C)C | InChI=1S/C15H23NO4.H2O/c1-10-5-16-13(6-17)11(2)14(10)18-7-12-8-19-15(3,4)20-9-12;/h5,12,17H,6-9H2,1-4H3;1H2
